US09290451B2
a) Ethyl 2-(6-(cyclopropylmethoxy)-5-(trifluoromethyl)picolinamido)-2-ethylbutanoate
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (Example 113 d) and ethyl 2-amino-2-ethylbutanoate hydrochloride (CAN 1135219-29-2) as starting materials, MS (EI): m/e=403.4 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C(F)(F)F | C11H10F3NO3
reactant | ethyl 2-amino-2-ethylbutanoate hydrochloride | Cl.NC(C(=O)OCC)(CC)CC
product | Ethyl 2-(6-(cyclopropylmethoxy)-5-(trifluoromethyl)picolinamido)-2-ethylbutanoate | C1(CC1)COC1=C(C=CC(=N1)C(=O)NC(C(=O)OCC)(CC)CC)C(F)(F)F | C19H25F3N2O4
